
*74LS04 MCE Nodes: A,Y
*MCE mixed-mode inverter pkg:DIP14 (A:1,2)(B:3,4)(C:5,6)(D:9,8)(E:11,10)(F:13,12)
.SUBCKT X74LS04 5 3
BNLVs1 4 0 V=~(V(5))
R1 4 3 1
C1 3 0 .004uF IC=0V
.ENDS X74LS04
